US05519138
e) 2-n-Butyl-1-[4-[(α-carboxy)benzyloxy]-(α-methyl)-benzyl]benzimidazole
Prepared analogously to Example 1b from 2-n-butyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]-(α-methyl)benzyl]-benzimidazole and 1N sodium hydroxide solution in ethanol.

reactant | 2-n-butyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]-(α-methyl)benzyl]-benzimidazole | C(CCC)C1=NC2=C(N1C(C1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC)C)C=CC=C2 | C29H32N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Butyl-1-[4-[(α-carboxy)benzyloxy]-(α-methyl)-benzyl]benzimidazole | C(CCC)C1=NC2=C(N1C(C1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O)C)C=CC=C2 | C27H28N2O3
